US04927955
To a solution of 3 g of N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(S)-3-chloromandelamide, SR 58588, PREPARATION VI, in 40 ml of anhydrous tetrahydrofuran, heated with reflux under nitrogen stream, there is added 2.7 ml of a 10M solution of borane-methylsulfide (reagent which generates diborane consisting of a complex of borane and dimethylsulfide) in 20 ml of tetrahydrofuran, and heated for 4 hours with reflux. To the solution cooled at room temperature, there is added 25 ml of methanol and the reaction mixture is left under stirring at first 30 minutes at room temperature, then, 30 minutes with reflux. After concentration under reduced pressure and filtration, the residue is crystallized twice from isopropanol to give the N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(2S)-2-(3-chlorophenyl)-2-hydroxyethanamine, SR 58590; m.p. 186°-188° C.; |alpha|=+76° (methanol, c=0.5%).

reactant | N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(S)-3-chloromandelamide | 3 g | OC1=CC=C2CC[C@H](CC2=C1)NC([C@@H](O)C1=CC(=CC=C1)Cl)=O | C18H18ClNO3
reactant | borane methylsulfide | B.CSC
reactant | diborane | B#B | B2
reactant | borane | B | BH3
reactant | dimethylsulfide | CSC | C2H6S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
product | N-[(2R)-7-hydroxy-1,2,3,4-tetrahydronaphth-2-yl]-(2S)-2-(3-chlorophenyl)-2-hydroxyethanamine | OC1=CC=C2CC[C@H](CC2=C1)NC[C@@H](O)C1=CC(=CC=C1)Cl | C18H20ClNO2
